US05098919
Ethyl (7-Isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)acetate
4.9 g of isopropyl 4-methyl-2-thioxopyrrolidine-3-carboxylate was dissolved in 50 ml of ethanol and 3.0 g of anhydrous sodium acetate and 7.7 g of 4-bromoacetoacetic acid ethyl ester were added thereto. The obtained mixture was stirred at room temperature for 3.5 hours. The crystals thus precipitated were collected by filtration, washed with water and dried. After recrystallization from a mixture of chloroform and ethanol, 3.3 g of the title compound was obtained.

reactant | isopropyl 4-methyl-2-thioxopyrrolidine-3-carboxylate | 4.9 g | CC1C(C(NC1)=S)C(=O)OC(C)C | C9H15NO2S
reactant | sodium acetate | 3.0 g | C(C)(=O)[O-].[Na+]
reactant | 4-bromoacetoacetic acid ethyl ester | 7.7 g | C(C)OC(CC(=O)CBr)=O | C6H9BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl (7-Isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)acetate | 3.3 g | C(C)(C)OC(=O)C=1C(CN2C1SCC2=CC(=O)OCC)C | C15H21NO4S
